US07273877B2
2,3,4,5,6-Pentafluorophenyl-4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (600 mg, 1.08 mmol) was dissolved in THF (15 mL) to which was added DIEA (697 mg, 5.40 mmol), followed by 2-aminoethanol (132 mg, 2.17 mmol). This mixture was stirred at R.T. for 2 h., then the reaction solvent removed under reduced pressure and the resulting white solid suspended in Et2O. The solid was collected by filtration, then recrystallised from EtOAc/MeOH to give 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (394 mg, 85%) as a white solid, m.p. (EtOAc/MeOH) 205-208° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.10 (s, 1H), 8.43 (br s, 1H), 8.28 (s, 1H), 7.72 (dd, J=10.2, 1.8 Hz, 1H), 7.56 (br d, J=8.5 Hz, 1H), 7.28 (t, J=8.5 Hz, 1H), 5.58 (s, 1H), 4.76 (br t, J=5.2 Hz, 1H), 3.50 (q, J=5.8 Hz, 2H), 3.36 (s, 3H), 3.32-3.26 (m, 2H). Anal. Calcd for C15H15FIN3O3: C, 41.8; H, 3.5; N, 9.8. Found: C, 4.19; H, 3.2; N, 9.7.

reactant | 2,3,4,5,6-Pentafluorophenyl-4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 1.08 mmol, 600 mg | FC1=C(C(=C(C(=C1F)F)F)F)C=1N(C(C=C(C1C(=O)[O-])NC1=C(C=C(C=C1)I)F)=O)C
reactant | DIEA | 5.40 mmol, 697 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-aminoethanol | 2.17 mmol, 132 mg | NCCO | C2H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(2-fluoro-4-iodoanilino)-N-(2-hydroxyethyl)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 394 mg, 85% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NCCO)C=CC(=C1)I | C15H15FIN3O3
